US07678826B2
B3) Preparation of 2-[(2-(5-chloro-2-methoxycarbonylmethoxy-benzyl)-phenoxy]-propionic acid
The titled compound is prepared analogously to 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid by replacing [4-chloro-2-(5-chloro-2-hydroxy-benzyl)-phenoxy]-acetic acid benzyl ester with [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid methyl ester.

reactant | 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid | C(C1=CC=CC=C1)OC(=O)COC1=C(CC2=C(OC(C(=O)O)C)C=CC(=C2)Cl)C=C(C=C1)Cl | C25H22Cl2O6
reactant | [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)O)=O | C16H15ClO4
product | (2-(5-chloro-2-methoxycarbonylmethoxy-benzyl)-phenoxy]-propionic acid | ClC=1C=CC(=C(CC2=C(OC(C(=O)O)C)C=CC=C2)C1)OCC(=O)OC | C19H19ClO6
